US08012974B2
DIPEA (0.13 mL, 0.732 mmol) was added at 0° C. to a suspension of 1-piperidin-2-ylmethyl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride (0.080 g, 0.198 mmol) in 10 mL of DCM. The resulting mixture was stirred at RT for 15 minutes before adding 2,2,2-trifluoroethyl triflate (0.056 mL, 0.396 mmol) was added. The reaction mixture was stirred at RT overnight before being evaporated. The residue was purified by SiO2 flash chromatography to give 0.053 mg of racemic 1-[1-(2,2,2-trifluoro-ethyl)-piperidin-2-ylmethyl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (55% yield).

reactant | DIPEA | 0.732 mmol, 0.13 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-piperidin-2-ylmethyl-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea dihydrochloride | 0.198 mmol, 0.080 g | Cl.Cl.N1C(CCCC1)CNC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C
reactant | 2,2,2-trifluoroethyl triflate | 0.396 mmol, 0.056 mL | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | racemic 1-[1-(2,2,2-trifluoro-ethyl)-piperidin-2-ylmethyl]-3-[5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.053 mg, 55% yield | FC(CN1C(CCCC1)CNC(=O)NC=1N=C2C(=NC1)N(C=C2)COCC[Si](C)(C)C)(F)F | C21H33F3N6O2Si
